US07732456B2
(2) Preparation of 4-(4-fluorobenzyloxy)-1-[4-(2-aminoethoxy)phenyl]-1H-pyridin-2-one
Triphenylphosphine (50 mg) was added to THF (5 mL)-water (1 mL) solution of 4-(4-fluorobenzyloxy)-1-[4-(2-azidoethoxy)phenyl]-1H-pyridin-2-one (50 mg), and stirred at 80° C. for 2 hours. Allowing the reaction liquid to cool off, 1N hydrochloric acid was added, followed by washing with diethyl ether. The aqueous layer was rendered basic by addition of 1N aqueous sodium hydroxide, extracted with chloroform and dried over anhydrous magnesium sulfate. Concentrating the solvent under reduced pressure, the residue was reprecipitated from diethyl ether-hexane to provide the title compound (9.8 mg, 21%).

reactant | Triphenylphosphine | 50 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | 4-(4-fluorobenzyloxy)-1-[4-(2-azidoethoxy)phenyl]-1H-pyridin-2-one | 50 mg | FC1=CC=C(COC2=CC(N(C=C2)C2=CC=C(C=C2)OCCN=[N+]=[N-])=O)C=C1 | C20H17FN4O3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | 1 mL | O | H2O
product | 4-(4-fluorobenzyloxy)-1-[4-(2-aminoethoxy)phenyl]-1H-pyridin-2-one | 9.8 mg, 21% | FC1=CC=C(COC2=CC(N(C=C2)C2=CC=C(C=C2)OCCN)=O)C=C1 | C20H19FN2O3
